US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 4-(5-bromo-2-fluorophenoxymethyl)-1-methyl-1H-[1,2,3]triazole as described in Example 6 to give 2-{8-fluoro-3-[4-fluoro-3-(1-methyl-1H-[1,2,3]triazol-4-ylmethoxy)phenyl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid: δH (400 MHz, d6-DMSO) 1.58 (6H, s), 4.07 (3H, s), 5.35 (2H, s), 5.55 (1H, s), 7.16-7.23 (2H, m), 7.37 (1H, dd, J 11 and 9), 7.65 (1H, dd, J 8 and 2), 7.76 (1H, s), 8.21 (1H, s), 8.43 (1H, d, J 7); m/z (ES+) 400 [MH+].

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 4-(5-bromo-2-fluorophenoxymethyl)-1-methyl-1H-[1,2,3]triazole | BrC=1C=CC(=C(OCC=2N=NN(C2)C)C1)F | C10H9BrFN3O
product | 2-{8-fluoro-3-[4-fluoro-3-(1-methyl-1H-[1,2,3]triazol-4-ylmethoxy)phenyl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C2=CC(=C(C=C2)F)OCC=2N=NN(C2)C | C20H19F2N5O2
